US08404836B2
12.5 ml (31.2 mmol) of n-butyllithium is added dropwise to a solution at −40° C. of 11.1 g (31.2 mmol) of methyl-triphenyl-phosphonium diluted in 100 ml of tetrahydrofuran. The reaction mixture is stirred at 0° C. for 30 minutes and then cooled to −25° C. and a solution of 5 g (20.8 mmol) of 2-methoxy-4-(2-methoxy-ethoxymethoxy)-benzaldehyde diluted in 50 ml of tetrahydrofuran is added dropwise. The reaction mixture is stirred at room temperature for 2 hours. The reaction mixture is treated by adding water and then extracted with ethyl acetate. The organic phases are combined, washed with saturated sodium chloride solution, dried over magnesium sulfate, filtered, and evaporated. The raw product is purified by silica column chromatography, eluted with a heptane/ethyl acetate mixture 75/25 to give 4.4 g (90%) of 2-methoxy-4-(2-methoxy-ethoxymethoxy)-1-vinyl-benzene in the form of a colorless oil.

reactant | n-butyllithium | 31.2 mmol, 12.5 ml | C(CCC)[Li]
reactant | methyl-triphenyl-phosphonium | 31.2 mmol, 11.1 g | C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-methoxy-4-(2-methoxy-ethoxymethoxy)-benzaldehyde | 20.8 mmol, 5 g | COC1=C(C=O)C=CC(=C1)OCOCCOC | C12H16O5
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-methoxy-4-(2-methoxy-ethoxymethoxy)-1-vinyl-benzene | 4.4 g, 90% | COC1=C(C=CC(=C1)OCOCCOC)C=C | C13H18O4
